US07250518B2
Ethyl 2,5-dichloronicotinate of Formula (6.0.51):
5-Chloro-2-hydroxynicotinic acid [11.95 g; Synthetic Comm. (1989), 19, 553] was suspended in thionyl chloride (52 mL) and anhydrous dimethylformamide (2 mL) was added. The suspension was refluxed 3 h, then concentrated under a nitrogen stream to remove the bulk of excess thionyl chloride before adding anhydrous ethanol (30 mL) giving a mixture of the desired ester and diethyl sulfite. The resulting mixture was concentrated in vacuo to remove the ethanol yielding a suspension. The solids were then filtered off and washed with anhydrous diethyl ether (2×10 mL). The combined filtrates were concentrated in vacuo yielding crude product. Purification by silica gel chromatography (ethyl acetate:hexanes 8:92) gave pure title compound (4.75 g).

reactant | 5-Chloro-2-hydroxynicotinic acid | 11.95 g | ClC=1C=NC(=C(C(=O)O)C1)O | C6H4ClNO3
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | diethyl sulfite | S(=O)(OCC)OCC | C4H10O3S
reactant | thionyl chloride | 52 mL | S(=O)(Cl)Cl | Cl2OS
product | Ethyl 2,5-dichloronicotinate | 4.75 g | ClC1=C(C(=O)OCC)C=C(C=N1)Cl | C8H7Cl2NO2
